US07691877B2
[2-Amino-6-(4-dimethylaminomethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using dimethyl-oxazol-4-ylmethyl-amine (128 mg), (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (200 mg) and palladium bis(triphenylphosphine)dichloride (71 mg), giving the product (99 mg) as a yellow gum.

reactant | dimethyl-oxazol-4-ylmethyl-amine | 128 mg | CN(CC=1N=COC1)C | C6H10N2O
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 200 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
catalyst | palladium bis(triphenylphosphine)dichloride | 71 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | [2-Amino-6-(4-dimethylaminomethyl-oxazol-2-yl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)C=1OC=C(N1)CN(C)C)N)[N+](=O)[O-])=O | C21H24N6O5
